US06166047
3-Chloro-1-(3-pyridyloxy)propane
Under a nitrogen atmosphere, a solution of 3-hydroxypyridine (5.00 g, 52.58 mmol) in N,N-dimethylformamide (DMF) (55 mL) was slowly added to a cold (0-5° C.), stirring slurry of sodium hydride (2.52 g of an 80% dispersion in mineral oil, 84.0 mmol) in DMF (10 mL). The mixture was allowed to warm to ambient temperature and further stirred for 1 h. To this slurry was added 1-choro-3-iodopropane (12.90 g, 63.10 mmol), and the resulting dark-brown mixture was stirred at ambient temperature for 48 h. Cold water was added and the mixture was extracted with chloroform (4×100 mL). The combined chloroform extracts were washed with water (2×50 mL), dried (Na2SO4), filtered, and concentrated by rotary evaporation. Water (150 mL) was added, and the mixture was basified with 20% NaOH solution (5.0 mL). The alkaline solution was extracted with methyl t-butyl ether (MTBE) (5×100 mL). The combined MTBE extracts were washed with water (4×100 mL), dried (Na2SO4), filtered, and concentrated by rotary evaporation to give 4.90 g (54.3%) of an oil. 1H NMR (CDCl3, 300 MHz): δ 8.34 (s, 1H), 8.24 (s, 1H), 7.22 (t, 2H, J=2.13 Hz), 4.18 (t, 2H, J=5.85 Hz), 3.77 (t, 2H, J=6.19 Hz), 2.27 (p, 2H, J=6.03 Hz). 13C NMR (CDCl3, 75 MHz): δ 154.99, 142.38, 138.07, 123.93, 121.09, 64.60, 41.22, 32.11. EI-MS: m/z (relative intensity) 171 (M+, 27.25%), 136 (4.66%), 95 (100.00%), 78 (17.98%), 41 (37.74%), 39 (34.23%).

reactant | 3-hydroxypyridine | 52.58 mmol, 5.00 g | OC=1C=NC=CC1 | C5H5NO
reactant | sodium hydride | [H-].[Na+]
reactant | 1-choro-3-iodopropane | 63.10 mmol, 12.90 g | ClCCCI | C3H6ClI
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 55 mL | CN(C=O)C | C3H7NO
solvent | DMF | 10 mL | CN(C=O)C | C3H7NO
product | 3-Chloro-1-(3-pyridyloxy)propane | 4.90 g, 54.3% | ClCCCOC=1C=NC=CC1 | C8H10ClNO
